US07183276B2
A mixture of ethyl (2E)-3-[2-(1H-benzimidazol-1-yl)-4-isopropyl-5-thiazolyl]propenoate (1.50 g), 5% palladium-carbon (1.0 g), tetrahydrofuran (20 mL) and ethanol (20 mL) was stirred at room temperature under an atmospheric pressure of hydrogen for 14 hrs. The catalyst was removed by filtration, and the organic layer was concentrated to give ethyl 3-[2-(1H-benzimidazol-1-yl)-4-isopropyl-5-thiazolyl]propionate (1.50 g, 99%) as a yellow oil.

reactant | ethyl (2E)-3-[2-(1H-benzimidazol-1-yl)-4-isopropyl-5-thiazolyl]propenoate | 1.50 g | N1(C=NC2=C1C=CC=C2)C=2SC(=C(N2)C(C)C)/C=C/C(=O)OCC | C18H19N3O2S
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 1.0 g | [C].[Pd]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | ethyl 3-[2-(1H-benzimidazol-1-yl)-4-isopropyl-5-thiazolyl]propionate | 1.50 g, 99% | N1(C=NC2=C1C=CC=C2)C=2SC(=C(N2)C(C)C)CCC(=O)OCC | C18H21N3O2S
